US07091214B2
A solution of hydrochloric acid in ethanol was added to a solution of tert-butyl [4-(methanesulfonylamino)butyl]carbamate (18.9 g, 71.1 mmol) in ethanol (100 mL), and the reaction was heated at 100° C. for two hours. The solvent was removed under reduced pressure. A mixture of dichloromethane:hexanes was added to the resulting oil and removed under reduced pressure; this process was repeated several times. The residue was dried for three days under vacuum to provide 14.3 g of N-(4-aminobutyl)methanesulfonamide hydrochloride as a tan solid.

reactant | hydrochloric acid | Cl | ClH
reactant | tert-butyl [4-(methanesulfonylamino)butyl]carbamate | 71.1 mmol, 18.9 g | CS(=O)(=O)NCCCCNC(OC(C)(C)C)=O | C10H22N2O4S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(4-aminobutyl)methanesulfonamide hydrochloride | 14.3 g | Cl.NCCCCNS(=O)(=O)C | InChI=1S/C5H14N2O2S.ClH/c1-10(8,9)7-5-3-2-4-6;/h7H,2-6H2,1H3;1H
